US07049629B2
A solution of 2-bromo-3-octylthiophene (1.800 grams, 6.533 mmol) in 7 milliliters of anhydrous THF was added slowly over a period of 20 minutes to a mechanically stirred suspension of magnesium turnings (0.238 grams, 9.79 mmol) in 3 milliliters of THF in a 250 milliliter round-bottomed flask under an inert argon atmosphere. The resultant mixture was stirred at 60° C. for 4 hours, and then cooled down to room temperature. The resultant mixture was then added via a cannula to a mixture of 1,4-bis(5-bromo-2-thienyl)-2,5-dioctyloxybenzene (1.650 grams, 2.513 mmol) and [1,3-bis(diphenylphosphinopropane]dichloronickel (II) (0.057 gram, 0.105 mmol) in 20 milliliters of anhydrous THF in a 250 milliliter round-bottomed flask under an inert atmosphere, and refluxed for 48 hours. Subsequently, the reaction mixture was diluted with 200 milliliters of ethyl acetate, was washed twice with water and dried with anhydrous magnesium sulfate. A brown solid, obtained after evaporation of the solvent, was purified by column chromotography on silica gel and recrystallized yielding 1,4-bis[5-(3-octyl-2-thienyl)-2-thienyl]-2,5-dioctyloxybenzene as a yellow crystalline product in 30 percent yield.

reactant | 2-bromo-3-octylthiophene | 6.533 mmol, 1.800 grams | BrC=1SC=CC1CCCCCCCC | C12H19BrS
reactant | magnesium | 9.79 mmol, 0.238 grams | [Mg] | Mg
reactant | 1,4-bis(5-bromo-2-thienyl)-2,5-dioctyloxybenzene | 2.513 mmol, 1.650 grams | BrC1=CC=C(S1)C1=C(C=C(C(=C1)OCCCCCCCC)C=1SC(=CC1)Br)OCCCCCCCC | C30H40Br2O2S2
solvent | THF | 7 milliliters | C1CCOC1 | C4H8O
solvent | THF | 3 milliliters | C1CCOC1 | C4H8O
solvent | THF | 20 milliliters | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 milliliters | C(C)(=O)OCC | C4H8O2
product | 1,4-bis[5-(3-octyl-2-thienyl)-2-thienyl]-2,5-dioctyloxybenzene | 30 percent yield | C(CCCCCCC)C1=C(SC=C1)C1=CC=C(S1)C1=C(C=C(C(=C1)OCCCCCCCC)C=1SC(=CC1)C=1SC=CC1CCCCCCCC)OCCCCCCCC | C54H78O2S4
